US05994378
2-{2-{[2-(4-tert-Butylthiazol-2-yl)benzofuran-5-yloxy]methyl}phenoxy}pentanamide oxime (240 mg) and triethylamine (61 mg) were dissolved in tetrahydrofuran (3 ml). To this solution was added a solution of ethyl chloroformate (65 mg) dissolved in tetrahydrofuran (1 ml) under ice-cooling. The reaction mixture was stirred for fifteen minutes, filtered, and concentrated. The resulting material was dissolved in xylene (4 ml) and 1.8-diazabicyclo[5.4.0]undec-7-ene (152 mg) was added. The mixture was stirred at 50° C. for three hours. The mixture was cooled, diluted with toluene, and washed successively with 0.5N hydrochloric acid and brine, and dried over magnesium sulfate. The crude material was purified on a silica gel column eluting with a mixed solvent of methylene chloride and methanol (1% vol.) to give partially purified product which was again purified on a silica gel column eluting with a mixed solvent of toluene and ethyl acetate (6:1) to give 3-{1-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}phenoxy}butyl}-1,2,4-oxadiazoline-5-one (120 mg).

reactant | 2-{2-{[2-(4-tert-Butylthiazol-2-yl)benzofuran-5-yloxy]methyl}phenoxy}pentanamide oxime | 240 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OC(C(N)=NO)CCC)C=CC=C2 | C27H31N3O4S
reactant | triethylamine | 61 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 65 mg | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-{1-{2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}phenoxy}butyl}-1,2,4-oxadiazoline-5-one | 120 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OC(CCC)C1=NOC(N1)=O)C=CC=C2 | C28H29N3O5S
